US04410539
Sodium hydride (0.17 g. of 50% dispersion in mineral oil) was added portionwise to a stirred solution of 6-(1-imidazolylmethyl)indole-2-carboxylic acid methyl ester (0.90 g.) in dry N,N-dimethylformamide (50 ml.) and the mixture was stirred at room temperature for 1 hour. Benzyl bromide (0.61 g.) was added and the resulting mixture was stirred for 2 hours and then poured into water. The mixture was extracted several times with ethyl acetate and the combined extracts were washed well with water and dried (Na2SO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution with chloroform first gave mineral oil followed by pure product. Evaporation of the product-containing fractions gave a solid which was crystallized from ethyl acetate/petrol (b.p. 60°-80°) to give 1-benzyl-6-(1-imidazolylmethyl)indole-2-carboxylic acid methyl ester, m.p. 120°-122° C.

reactant | Sodium hydride | 0.17 g | [H-].[Na+]
reactant | 6-(1-imidazolylmethyl)indole-2-carboxylic acid methyl ester | 0.90 g | COC(=O)C=1NC2=CC(=CC=C2C1)CC=1NC=CN1 | C14H13N3O2
reactant | Benzyl bromide | 0.61 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-benzyl-6-(1-imidazolylmethyl)indole-2-carboxylic acid methyl ester | COC(=O)C=1N(C2=CC(=CC=C2C1)CC=1NC=CN1)CC1=CC=CC=C1 | C21H19N3O2
